US06794395B1
(2) 3-(Z)-[1-(4-chloro-anilino)-1-phenyl-methylidene]-5,6-dimethoxy-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-5,6-dimethoxy-2-indolinone and 4-chloroaniline

reactant | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-5,6-dimethoxy-2-indolinone | C(C)(=O)N1C(C(C2=CC(=C(C=C12)OC)OC)=C(C1=CC=CC=C1)OCC)=O | C21H21NO5
reactant | 4-chloroaniline | ClC1=CC=C(N)C=C1 | C6H6ClN
product | 3-(Z)-[1-(4-chloro-anilino)-1-phenyl-methylidene]-5,6-dimethoxy-2-indolinone | ClC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=C(C=C23)OC)OC)=O)C=C1 | C23H19ClN2O3
